datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1CC[N:72]([C:61]([S-:10])=[S:62])C1.CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([S:10][C:61](=[S:62])[N:72]2CCCC2)[C:21]2=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23"
"Br[C:12]1=[C:13]([NH2:14])[C:62](Br)=[CH:63][N:10]=[CH:11]1.C1C[C:21](=[CH2:20])[C:22](=[O:23])[O:33]C1>>Br[C:12]1=[CH:11][N:10]([CH2:20][C:21]2=[C:22]([O-:23])[O:33]CCC2)[CH:63]=[C:62](Br)[C:13]1=[NH2+:14] 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=C(Cl)C=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CC[N:72](CC)[C:61](/[CH:10]=[C:11](/C1=CC=CC=C1)[O-:12])=[O:62]>>CC[N:72](CC)[C:61]([CH:10]([C:11](C1=CC=CC=C1)=[O:12])[CH:20]([C:21]1=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]1)/[CH:41]=[CH:42]/C1=CC=C(Cl)C=C1)=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
C[NH:61][NH2:10].F[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1>>C[NH:61][NH2+:10][CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]1 10=20
"[C:20](=[S:21])=[S:31].[H][C:11]1([H:10])[CH:12]=[CH:13][N:14](CC2=CC=CC=C2)[CH:63]=[C:62]1C(N)=O>>[H:10][C:20]([S-:21])=[S:31].[H][C:11]1=[CH:12][CH:13]=[N+:14](CC2=CC=CC=C2)[CH:63]=[C:62]1C(N)=O 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
"CC1=CC(C)=C([N:62]2[P:11]([H:10])[N:72](C3=C(C)C=C(C)C=C3C)[CH:64]=[CH:63]2)C(C)=C1.CN(CC(F)(F)F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)CC(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC1=CC(C)=C([N:62]2[P+:11][N:72](C3=C(C)C=C(C)C=C3C)[CH:64]=[CH:63]2)C(C)=C1.CN(CC(F)(F)F)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[C:44](N(C)CC(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20"
"CC[O:12][CH:11]=[CH2:10].C[N+:23]1=[CH:22]/[C:21](=[CH:20]/[C:31]2=[CH:32][N:33](C)[C:42]3=[C:41]2C=CC=C3)C2=C1C=CC=C2>>CC[O+:12]=[CH:11][CH2:10][CH:20]([C:21]1=[CH:22][N:23](C)C2=C1C=CC=C2)[C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=CC=C2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:21]1=[CH:20]CCC[C:22]1=[O:23].[N-:10]1[CH:61]=[N:62][C:72]([CH:73]=[O:74])=[CH:71]1>>C[C:21]1=[C:22]([O-:23])CCC[CH:20]1[N:10]1[CH:61]=[N:62][C:72]([CH:73]=[O:74])=[CH:71]1 10=20;20,21=21,22;22,23=23"
"C[S+:61](C)[CH-:10][C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:83]=[CH:82]1.[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5C=C[CH:20]1C2C3C54>>C[S+:61](C)[CH:10]([CH:20]1C=CC2C3C4C1[Fe-3:21]234(C#[O+])(C#[O+])C#[O+])[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:83]=[CH:82]1 10=20;20,21=21"
"C1CC[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.CC[Sn:63](CC)(CC)[CH2:62][CH2:11][H:10]>>C1CC[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.CC[Sn:63](CC)(CC)[CH2:62][CH2+:11] 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)(C)[O:33][C:22]([CH:21]=[CH2:20])=[O:23].CO/[C:10](C1=CC=CC=C1)=[C:11]1\[N:12](C)[C:64]2=[C:63](C=CC=C2)[S:62]1>>CO[C:10](C1=CC=CC=C1)([C:11]1=[N+:12](C)[C:64]2=[C:63](C=CC=C2)[S:62]1)[CH2:20][CH:21]=[C:22]([O-:23])[O:33]C(C)(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[C:20](=[O:21])C1.C[C:63]1=[C:62]([N:61]2[C-:10]=[N+:71](C)[CH:73]=[CH:72]2)[C:67](C)=[CH:66][C:65](C)=[CH:64]1>>C[C:63]1=[C:62]([N:61]2[C:10]([C:20]3([O-:21])CCC3)=[N+:71](C)[CH:73]=[CH:72]2)[C:67](C)=[CH:66][C:65](C)=[CH:64]1 10=20;20,21=21"
"CC(C)(C)C[Si:11](C)(C)[H:10].CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C3=CC=CC=C3)[C:24](=[O:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1>>CC(C)(C)C[Si+:11](C)C.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:21]2=[CH:22][C:23](C3=CC=CC=C3)=[C:24]([O-:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C(O[P+](OC2=CC=CC=C2)(OC2=CC=CC=C2)[Pd-:21]23([P+](OC4=CC=CC=C4)(OC4=CC=CC=C4)OC4=CC=CC=C4)C(C4=CC=CC=C4)C2[CH2:20]3)C=C1.CC1=CC(C)=C([N+:61]2=[C-:10][N:71](C3=C(C)C=C(C)C=C3C)CC2)C(C)=C1>>CC1=CC(C)=C([N+:61]2=[C:10]([CH2:20]C3C(C4=CC=CC=C4)[Pd-2:21]3([P+](OC3=CC=CC=C3)(OC3=CC=CC=C3)OC3=CC=CC=C3)[P+](OC3=CC=CC=C3)(OC3=CC=CC=C3)OC3=CC=CC=C3)[N:71](C3=C(C)C=C(C)C=C3C)CC2)C(C)=C1 10=20;20,21=21"
"C1C[C:33]2=[C:34](O1)[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](OCC3)[CH:45]=[CH:46]1)=[CH:32]2.C[Si](C)(C)[Si:63]([Si](C)(C)C)([Si](C)(C)C)[O:12][C:11]1=[CH:10]CCCC1>>C[Si](C)(C)[Si:63]([Si](C)(C)C)([Si](C)(C)C)[O+:12]=[C:11]1CCCC[CH:10]1[CH:20]([C:31]1=[CH:32][C:33]2=[C:34](OCC2)[CH:35]=[CH:36]1)[C:41]1=[CH:42][C:43]2=[C:44](OCC2)[CH:45]=[CH:46]1 10,11=10,20;12=11,12"
"C1CC[N+:21](=[CH:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.C[C:62]1=[CH:61][N:10]=[CH:11][NH:12]1>>C[C:62]1=[CH:61][N:10]([CH:20]([N:21]2CCCCC2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:11]=[NH+:12]1 10,11=10,20;12=11,12;20,21=21"
